* NGSPICE file created from Beta_mult.ext - technology: sky130A

.subckt sky130_fd_pr__pfet_01v8_NMD27C B D S G
X0 S G D B sky130_fd_pr__pfet_01v8 ad=1.74 pd=12.58 as=1.74 ps=12.58 w=6 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_WVN3PK B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=2.32 pd=16.58 as=2.32 ps=16.58 w=8 l=0.4
.ends

.subckt sky130_fd_pr__nfet_01v8_8NR3P7 B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.4
.ends

.subckt sky130_fd_pr__pfet_01v8_B6MYM2 B D S G
X0 S G D B sky130_fd_pr__pfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=20
.ends

.subckt sky130_fd_pr__res_high_po_0p69_APCDV8 B R1 R2
X0 R1 R2 B sky130_fd_pr__res_high_po_0p69 l=15
.ends

.subckt sky130_fd_pr__nfet_01v8_8SA9P7 B D S G
X0 S G D B sky130_fd_pr__nfet_01v8 ad=0.58 pd=4.58 as=0.58 ps=4.58 w=2 l=0.2
.ends

.subckt Beta_mult vdo vdd vss
XXM25 vdd XM31/S vdd vdo sky130_fd_pr__pfet_01v8_NMD27C
XXM27 vss vdo XR1/R1 XM31/S sky130_fd_pr__nfet_01v8_WVN3PK
XXM28 vss XM31/S vss XM31/S sky130_fd_pr__nfet_01v8_8NR3P7
XXM29 vdd XM31/G vdd XM31/G sky130_fd_pr__pfet_01v8_B6MYM2
XXR1 vss XR1/R1 vss sky130_fd_pr__res_high_po_0p69_APCDV8
XXM1 vdd vdo vdd vdo sky130_fd_pr__pfet_01v8_NMD27C
XXM30 vss XM31/G vss XM31/S sky130_fd_pr__nfet_01v8_8NR3P7
XXM31 vss vdo XM31/S XM31/G sky130_fd_pr__nfet_01v8_8SA9P7
.ends

